US07109186B2
4-Flourobenzyl amine (27 grams, 0.22 mole) was dissolved in 200 mL of CH2Cl2. To this was added 400 mL of 1N NaOH and the resulting mixture cooled to 0° C. 4-Fluorobenzoyl chloride (33 grams, 0.21 mole) was added dropwise with stirring. The reaction was allowed to proceed for 20 min after which the organic layer was separated, dried over Na2SO4, filtered and the solvent removed under vacuum to yield 47 grams (92% yield) of 4-fluoro-N-(4-fluoro-benzyl)-benzamide as a solid. MS (M−H) calcd for C14H10F2NO: 246.1. found: 246.0. Anal. Calcd for C14H11F2NO; C, 68.01; H, 4.48; N, 5.66; found: C, 67.76; H, 4.54; N, 5.45. 1H NMR (500 MHz, DMSO) δ: 4.45 (d, 2, J=6), 7.15 (m, 2), 7.34 (overlapping m, 4), 7.97 (m, 2), 9.09 (t, 1, J=6). 13C NMR (125 MHz, DMSO) δ: 41.88, 114.81, 114.98, 115.06, 115.23, 129.08, 129.15, 129.76, 129.83, 130.60, 130.62, 135.66, 135.68, 160.10, 162.03, 162.83, 164.81, 165.04.

reactant | 4-Flourobenzyl amine | 0.22 mole, 27 grams | FC1=CC=C(CN)C=C1 | C7H8FN
reactant | NaOH | 1N, 400 mL | [OH-].[Na+]
reactant | 4-Fluorobenzoyl chloride | 0.21 mole, 33 grams | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-fluoro-N-(4-fluoro-benzyl)-benzamide | 47 grams, 92% yield | FC1=CC=C(C(=O)NCC2=CC=C(C=C2)F)C=C1 | C14H11F2NO
